US08937055B2
C) [4-(4-fluorophenyl)pyrimidin-5-yl]methanol
A mixture of [4-(4-fluorophenyl)-2-(methylsulfanyl)pyrimidin-5-yl]methanol (10.3 g), Raney-nickel (77 g) and ethanol (500 mL) was heated under reflux for 2 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (petroleum ether/ethyl acetate) to give the title compound (4.8 g).

reactant | [4-(4-fluorophenyl)-2-(methylsulfanyl)pyrimidin-5-yl]methanol | 10.3 g | FC1=CC=C(C=C1)C1=NC(=NC=C1CO)SC | C12H11FN2OS
catalyst | Raney-nickel | 77 g | [Ni] | Ni
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | [4-(4-fluorophenyl)pyrimidin-5-yl]methanol | 4.8 g | FC1=CC=C(C=C1)C1=NC=NC=C1CO | C11H9FN2O
